US07312343B2
(1-tert-Butoxy-vinyloxy)-tert-butyl-dimethyl-silane
To a stirred solution of 58.2 g diisopropylamine (575 mmol) in 500 ml tetrahydrofuran were added at 0° C. 344 ml 1.6M BuLi in hexane (550 mmol) over 20 min. After stirring for 15 min the solution was cooled to −70° C. and 58.1 g tert-butyl acetate (500 mmol; Fluka) were added at −70° C. over 15 min and stirring continued for 15 min. After the addition of 75 ml HMPA (Fluka) a solution of 81.6 g tert-butyldimethylchlorosilane (525 mmol; Fluka) in 100 ml tetrahydrofuran was added at −70° C. over 15 min and the reaction mixture was warmed to RT over ˜1 h. The reaction mixture was concentrated by rotary evaporation (40° C./≧10 mbar) and the honey-oily residue was partitioned between 1000 ml hexane and 1000 ml deionized water. The organic layer was washed with 10% brine (2×500 ml) and dried (Na2SO4) affording after removal of the solvent by rotary evaporation (40° C./≧10 mbar) 116.1 g bright yellow oil. Purification by vacuum distillation gave 106.0 g (92.0%) product as a colorless oil, b.p. 53-54° C./2.0 mbar. 1H-NMR:

reactant | diisopropylamine | 575 mmol, 58.2 g | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 1.6M, 344 ml | [Li]CCCC
reactant | hexane | 550 mmol | CCCCCC | C6H14
reactant | tert-butyl acetate | 500 mmol, 58.1 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | tert-butyldimethylchlorosilane | 525 mmol, 81.6 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | HMPA | 75 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | (1-tert-Butoxy-vinyloxy)-tert-butyl-dimethyl-silane | 106.0 g, 92.0% | C(C)(C)(C)OC(=C)O[Si](C)(C)C(C)(C)C | C12H26O2Si
